US09169254B2
2-Cyclohexyl-8-{(E)-2-[1-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-indol-5-yl]-ethenesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (41.9 mg, 0.0755 mmol) was dissolved in a methylene chloride-methanol mixed solution (1:1, 1.5 ml). Trifluoroacetic acid (0.35 ml) was added and the mixture was stirred for two days. A saturated aqueous sodium bicarbonate solution and water were added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by P-TLC (ethyl acetate-methanol) to give 2-cyclohexyl-8-{(E)-2-[1-((S)-2,3-dihydroxy-propyl)-1H-indol-5-yl]-ethenesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (33.4 mg, 86%).

reactant | 2-Cyclohexyl-8-{(E)-2-[1-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-indol-5-yl]-ethenesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.0755 mmol, 41.9 mg | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)\C=C\C=2C=C1C=CN(C1=CC2)C[C@@H]2OC(OC2)(C)C | C29H38N4O5S
reactant | Trifluoroacetic acid | 0.35 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | methylene chloride methanol | 1.5 ml | C(Cl)Cl.CO
product | 2-cyclohexyl-8-{(E)-2-[1-((S)-2,3-dihydroxy-propyl)-1H-indol-5-yl]-ethenesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 33.4 mg, 86% | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)\C=C\C=2C=C1C=CN(C1=CC2)C[C@@H](CO)O | C26H34N4O5S
